US04239901
23 g (87 mmoles) of 2-(2,5-dichloro-4-nitrophenyl)propionic acid are heated to 95° C. in 100 ml of glacial acetic acid and 30 ml of water, and 14 g (0.25 mole) of iron powder are added in portions. After the exothermic reaction subsides, heating (to 95° C.) is effected for a further hour. Pouring onto 500 g of ice is effected, followed by extracting twice with, in each case, 200 ml of diethyl ether, washing the organic phase with water, drying, and concentrating in a vacuum to obtain 16 g (78.6% of theory) of 2-(4-amino-2,5-dichlorophenyl)propionic acid (m.p. 140° to 141° C.).

reactant | 2-(2,5-dichloro-4-nitrophenyl)propionic acid | 87 mmoles, 23 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)C(C(=O)O)C | C9H7Cl2NO4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
catalyst | iron | 0.25 mole, 14 g | [Fe] | Fe
product | 2-(4-amino-2,5-dichlorophenyl)propionic acid | 16 g, 78.6% | NC1=CC(=C(C=C1Cl)C(C(=O)O)C)Cl | C9H9Cl2NO2
